US06670365B1
Preparation of 2-Bromo-2-(4-methylsulfonylphenyl)-1-(4-fluorophenyl)ethanone (Intermediate II, R1=CH3, R4=R5=H, R6=F)
A mixture of 1-(4-fluorophenyl)-2-(4-methylsulfonyl phenyl)ethanone (14.6 g, 50 mmol) in 210 mL of chloroform and 826 mL of CCl4. A solution of 8.0 g (50 mmol) of bromine in CCl4 was added dropwise to the mixture. When the loss of the bromine colour was complete, the organic layer was washed with 5% aqueous sodium bicarbonate solution and with brine. It was dried over anhydrous sodium sulfate. The drying agent was filtered, and the filtrate concentrated in vacuum to give 14.0 g (70%) of the desired product as a solid.

reactant | 1-(4-fluorophenyl)-2-(4-methylsulfonyl phenyl)ethanone | 50 mmol, 14.6 g | FC1=CC=C(C=C1)C(CC1=CC=C(C=C1)S(=O)(=O)C)=O | C15H13FO3S
reactant | bromine | 50 mmol, 8.0 g | BrBr | Br2
solvent | chloroform | 210 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CCl4 | 826 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromo-2-(4-methylsulfonylphenyl)-1-(4-fluorophenyl)ethanone | 14.0 g, 70% | BrC(C(=O)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C15H12BrFO3S
